US05051422
N-[4-[[4-Phenyl-1-(phenylmethyl)piperazin-2-yl]methoxy]phenyl]methanesulfonamide
Dissolve 4-[[4-phenyl-1-(phenylmethyl)piperazine-2-yl]methoxy]benzeneamine (6.28 g, 16.8 mmol) in acetonitrile (100 mL) and add methanesulfonic anhydride (3.22 g, 18.5 mmol). Monitor the progress of the reaction by thin-layer chromatography. Upon completion of the reaction, add water (100mL), ethyl acetate (50 mL) and sat. aq. sodium bicarbonate (50 mL). Separate the layers and reextract the aqueous layer with ethyl acetate (75mL). Wash the combined organic extracts with sat. aq. sodium chloride (75 mL) and remove the solvent in vacuo to give the title compound.

reactant | 4-[[4-phenyl-1-(phenylmethyl)piperazine-2-yl]methoxy]benzeneamine | 16.8 mmol, 6.28 g | C1(=CC=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)COC1=CC=C(C=C1)N | C24H27N3O
reactant | methanesulfonic anhydride | 18.5 mmol, 3.22 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | water | 100mL | O | H2O
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-[4-[[4-Phenyl-1-(phenylmethyl)piperazin-2-yl]methoxy]phenyl]methanesulfonamide | C1(=CC=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)COC1=CC=C(C=C1)NS(=O)(=O)C | C25H29N3O3S
